US05563141
Methyl 3-[4-(4-dimethylaminopyrid-3-yl)methoxyphenoxy]-2-benzyloxycarbonylaminopropanoate
A stirred mixture containing 4-dimethylaminopyridine-3-methanol (700 mg), triphenylphosphine (1.3 g), N-benzyloxycarbonyltyrosine methyl ester (1.66 g) and THF (50 ml) was treated dropwise with diethylazodicarboxylate (1.3 g) and the mixture was stirred for 4.5 hours and concentrated. The residue was purified by flash column chromatography eluting with methanol/dichloromethane (first 1:99, then 2:98) to give the title compound (900 mg) as a colourless foam. NMR(d6DMSO): δ2.7-3.1(2H,m); 2.9(6H,s); 3.6(3H,s); 4.2(1H,m); 4.95(2H,s); 5.05(2H,s); 6.8(1H,d); 6.9(2H,d); 7.15(2H,d); 7.2-7.4(5H,m); 7.75(1H,d); 8.3(1H,s); m/e 464(M+H)+.

reactant | 4-dimethylaminopyridine-3-methanol | 700 mg | CN(C1=C(C=NC=C1)CO)C | C8H12N2O
reactant | triphenylphosphine | 1.3 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | N-benzyloxycarbonyltyrosine methyl ester | 1.66 g | COC([C@@H](NC(=O)OCC1=CC=CC=C1)CC1=CC=C(C=C1)O)=O | C18H19NO5
reactant | diethylazodicarboxylate | 1.3 g | CCOC(=O)/N=N/C(=O)OCC | C6H10N2O4
solvent | THF | 50 ml | C1CCOC1 | C4H8O
product | Methyl 3-[4-(4-dimethylaminopyrid-3-yl)methoxyphenoxy]-2-benzyloxycarbonylaminopropanoate | 900 mg | CN(C1=C(C=NC=C1)COC1=CC=C(OCC(C(=O)OC)NC(=O)OCC2=CC=CC=C2)C=C1)C | C26H29N3O6
